US03998863
Bis(4-tert.-butyl-3-hydroxy-2,6-dimethylbenzyl) terephthalate.
A mixture of disocium terephthalate, 16.5 g. (0.08 mole) and 4-tert.-butyl-3-hydroxy-2,6-dimethylbenzyl chloride, 35.7 g. (0.158 mole) in 200 ml. of dimethylformamide was heated at reflux for 18 hours. The salt was then filtered off, and the filtrate poured into 400 ml. of water. The resulting brown gum was dissolved in 50 ml. of methanol and reprecipitated by addition of water. This procedure was repeated to give 18.9 g. (44%) of product, m.p. 227°-230° C. Anal. calc'd. for C34H42O6 : C=74.67, H=7.75; found: C=74.03, H=7.75.

reactant | terephthalate | C(C1=CC=C(C(=O)[O-])C=C1)(=O)[O-]
reactant | 4-tert.-butyl-3-hydroxy-2,6-dimethylbenzyl chloride | C(C)(C)(C)C1=C(C(=C(CCl)C(=C1)C)C)O | C13H19ClO
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Bis(4-tert.-butyl-3-hydroxy-2,6-dimethylbenzyl) terephthalate | C(C1=CC=C(C(=O)OCC2=C(C(=C(C=C2C)C(C)(C)C)O)C)C=C1)(=O)OCC1=C(C(=C(C=C1C)C(C)(C)C)O)C | C34H42O6
